US07687491B2
(25b) 2-Ethyl-N′-hydroxy-6-{[(triisopropylsilyl)oxy]methyl}pyridine-3-carboximidamide
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1d) using 2-ethyl-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile (0.75 g, 2.4 mmol) that was obtained in Example 25 (25a) and a 40% aqueous solution of hydroxylamine (0.5 mL). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (3:7 to 1:1) as the eluent to afford the title compound (0.80 g) in a yield of 95% as a white crystalline solid.

reactant | 2-ethyl-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile | 2.4 mmol, 0.75 g | C(C)C1=C(C#N)C=CC(=N1)CO[Si](C(C)C)(C(C)C)C(C)C | C18H30N2OSi
reactant | hydroxylamine | 0.5 mL | NO | H3NO
product | 2-Ethyl-N′-hydroxy-6-{[(triisopropylsilyl)oxy]methyl}pyridine-3-carboximidamide | C(C)C1=NC(=CC=C1C(N)=NO)CO[Si](C(C)C)(C(C)C)C(C)C | C18H33N3O2Si
